2132-04-25 12:28:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2132-4-24**] 06:20 PM
 FEVER - 102.7
F - [**2132-4-24**] 02:53 PM
   Overnight, pt developed increasing O2 requirement. Initially, he was
   sating in the mid-90s on 35% FiO2 face mask. O2 sats dropped to 80s,
   but pt denied dyspnea.  FIO2 increased to 85 % to maintain sats in low
   90s. Eventally transitioned to non-invasive ventilation with FIO2 of
   100% PSV of 8 and PEEP of 5.
   CXR showed bilateral fluid overload with collapse of the RML and RLL.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2132-4-25**] 04:04 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2132-4-24**] 06:10 PM
   Midazolam (Versed) - [**2132-4-24**] 06:10 PM
   Furosemide (Lasix) - [**2132-4-25**] 11:52 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-4-25**] 12:27 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.8
C (100
   HR: 113 (105 - 126) bpm
   BP: 116/72(82) {91/40(54) - 127/84(92)} mmHg
   RR: 17 (10 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    915 mL
                                                                    223 mL
   PO:
             TF:
   IVF:
                                                                    328 mL
                                                                    223 mL
   Blood products:
                                                                    587 mL
   Total out:
                                                                  1,480 mL
                                                                  1,125 mL
   Urine:
                                                                  1,480 mL
                                                                  1,125 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -566 mL
                                                                   -902 mL
   Respiratory support
   O2 Delivery Device: Other
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 704 (350 - 704) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 13 cmH2O
   SpO2: 98%
   ABG: 7.42/50/52/29/6
   Ve: 8 L/min
   PaO2 / FiO2: 130
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: RLL, Rhonchorous: )
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): ,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   131 K/uL
   11.5 g/dL
   103 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   9 mg/dL
   103 mEq/L
   142 mEq/L
   34.4 %
   7.2 K/uL
        [image002.jpg]
                             [**2132-4-25**]  01:35 AM
                             [**2132-4-25**]  04:32 AM
                             [**2132-4-25**]  05:54 AM
   WBC
   7.2
   Hct
   34.4
   Plt
   131
   Cr
   1.5
   TCO2
   33
   34
   Glucose
   103
   Other labs: PT / PTT / INR:20.6/32.6/1.9, ALT / AST:26/40, Alk Phos / T
   Bili:64/1.0, Amylase / Lipase:84/43, Differential-Neuts:86.5 %,
   Lymph:8.1 %, Mono:4.4 %, Eos:0.8 %, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL,
   PO4:1.7 mg/dL
   Imaging: CXR: pulmonary edema R>L; collapse of RML and RLL
   Microbiology: NO MICROORGANISMS OR PMN'S SEEN ON BAL
   ALL BCX AND UCX NGTD
   ECG: SINUS TACHYCARDIA
   Assessment and Plan
 HYPOXEMIA
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
   41 yo M with Factor V leiden defiency developed progressive hypoxemia
   s/p partial nephrectomy secondary to mucus plugging which is now
   substantially improved s/p bronchoscopy.  Despite fevers, he has no
   other indication of infection,  copious mucus likely secondary to
   decreased ability to clear in the setting of splinting from post-op
   pain. Now concerned for fluid overload given pulm edema on CXR in
   addition to RML/RLL collapse
   # Hypoxia: S/p bronchoscopy showing copious amounts of clear
   non-purulent mucus.  Sats improved post-procedudure supporting dx of
   plugging made on CTA.  PE ruled out with CTA; that said, pt is already
   therapeutic on coumadin.  Not concerned for PNA currently as gram stain
   of BAL negative for organisms and PMNs and pt w/o leukocytosis.  Pulm
   edema seen on today
s CXR suggestive of fluid overload/heart failure
   without cardiac hx.
   --NON-INVASIVE VENTILATION psv=8 peep=5\
   --Lasix: goal out 2L
   --Albuterol/Ipratropium nebs; mucolytic nebs
   --improved pain control to facilitate clearance of mucus.
   --echo to eval LVEF
   --repeat bronchoscopy if fails to improve with Lasix and psv
   # Fevers: Pt with pending cultures of blood, sputum, and urine. Most
   likely etiology is post-surgical trauma from large incision.  As above,
   lack of leukocystosis is reassuring. Wound does not appear to be
   infected.
   --F/u all pending cultures
   --cefazolin per Urology
   --serial CXR: although pt does not have PNA currently, he is at risk
   given his decreased ability to clear his airway.
   --trend WBC
   # Acute on Chronic Renal Failure?: GFR on admission = 60.  Cr increased
   from 1.2 to 1.5. Difficult to interpret in the setting of post-op fluid
   shifts and partial nephrectomy. Per urology, expect some ATN of left
   kidney [**12-31**] clamping.
   n        Trend Cr.
   n        Ulytes, Uosms
   # Factor V leiden: restart coumadin with INR goal of 2.0-2.2 as per his
   outpt hematologist.
   n        urology would prefer heme consult to dictate coumadin dosing
   # Pain Mgt: As above, pain likely contributing to poor cough and
   decreased clearance of airways. Pain currently controlled.
   --continue dilaudid PCA
   ICU Care
   Nutrition: regular
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-4-24**] 03:01 PM
   18 Gauge - [**2132-4-24**] 03:01 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2132-04-26 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2132-4-25**] 05:45 PM demonstrated thin secretions
 FEVER - 101.5
F - [**2132-4-25**] 10:00 PM: Cultured
   - Diuresed well with decrease in oxygen requirement.
   - Bronch demonstrated thin secretions
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2132-4-25**] 12:00 PM
   Vancomycin - [**2132-4-25**] 04:53 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-4-25**] 11:53 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2132-4-25**] 11:52 AM
   Fentanyl - [**2132-4-25**] 05:46 PM
   Midazolam (Versed) - [**2132-4-25**] 06:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-4-26**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 38.2
C (100.8
   HR: 120 (106 - 124) bpm
   BP: 118/97(100) {93/48(60) - 136/97(100)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                    940 mL
                                                                     72 mL
   PO:
                                                                    100 mL
             TF:
   IVF:
                                                                    840 mL
                                                                     72 mL
   Blood products:
   Total out:
                                                                  2,235 mL
                                                                    355 mL
   Urine:
                                                                  2,235 mL
                                                                    355 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,295 mL
                                                                   -283 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   Vt (Spontaneous): 435 (350 - 704) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 14 cmH2O
   SpO2: 92%
   ABG: 7.40/53/67/29/5
   Ve: 6.8 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: RLL, Rhonchorous: )
   Extremities: No edema
   Skin:  No rashes or skin breakdown
   Neurologic: Attentive
   Labs / Radiology
   154 K/uL
   10.5 g/dL
   95 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.9 mEq/L
   14 mg/dL
   102 mEq/L
   141 mEq/L
   31.0 %
   6.2 K/uL
        [image002.jpg]
                             [**2132-4-25**]  01:35 AM
                             [**2132-4-25**]  04:32 AM
                             [**2132-4-25**]  05:54 AM
                             [**2132-4-25**]  12:34 PM
                             [**2132-4-26**]  03:28 AM
   WBC
   7.2
   6.2
   Hct
   34.4
   31.0
   Plt
   131
   154
   Cr
   1.5
   1.3
   TCO2
   33
   34
   34
   Glucose
   103
   95
   Other labs: Differential-Neuts:83.6 %, Lymph:10.6 %, Mono:4.5 %,
   Eos:1.1 %, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:2.0 mg/dL
   Fluid analysis / Other labs: PT: 24.5  PTT: 40.5  INR: 2.4
   Imaging: Echo: LA: Elongated. LV Hypertrophy. LV wall mortio normal, EF
   55%, normal filling pressure. Normal Aortic/Mitral valuve, could not
   eval PA pressure, small pericardial effusion.  RV could not be
   assessed.
   Microbiology: [**Date range (1) 7871**] BCx NGTD
   [**Date range (1) 7872**] UCx NGTD
   [**4-25**] BAL: 3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         NO MICROORGANISMS SEEN.
   Rapid Viral Panel (-)
   Assessment and Plan
   41 yo M with Factor V leiden defiency developed progressive hypoxemia
   s/p partial nephrectomy secondary to mucus plugging which is now
   substantially improved s/p bronchoscopy.  Despite fevers, he has no
   other indication of infection, copious mucus likely secondary to
   decreased ability to clear in the setting of splinting from post-op
   pain. Now concerned for fluid overload given pulm edema on CXR in
   addition to RML/RLL collapse.
   # Hypoxia: Repeat bronchoscopy significant for increased PMNs without
   organisms, suspicious for hospital acquired PNA given his fever.
   Overall resiratory function improved with lasix. S/p bronchoscopy
   showing copious amounts of clear non-purulent mucus.  Echo normal.
   Patient on continued NIPPV overnight [**4-4**] @40% with occasional increase
   in FiO2 to 60%.
   - Continue NIPPV
   - Continue Vanc/Zosyn for HAP
   - UOP ~50mL/hr, Lasix as needed
   - Albuterol/Ipratropium nebs; mucolytic nebs
   - Follow CXR with clinical change
   # Fevers: Patient persistently febrile despite antibiotic therapy for
   supposed HAP.  No other clear source of infection related.  No evidence
   of DVT, UTI, atelectasis is directly addressed with PPV.  Does have a
   large incision post-op but is only now in the window for wound
   infection (which does not appear to be infected).
   - Continue Vanc/Zosyn for HAP
   - Trend WBC
   # Acute on Chronic Renal Failure: Patient
s Cr improving toward
   baseline of 1.3 with sufficient UOP and good response to lasix. Urology
   has advised us to expect ATN due to intraoperative ureteral clamping.
   - Trend Cr
   # Factor V leiden: Coumadin restarted at 2.5mg daily with INR goal of
   2.0-2.2 as per his outpt hematologist.
   # Post Op Pain Mgt:
   - Continue dilaudid PCA
   ICU Care
   Nutrition: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-4-25**] 04:47 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: Not indicated
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Post rounds addendum:
   At the time of rounds, patient transitioned to shovel mask.  Will
   obtain PA/Lateral film to evaluate ? retrocardiac opacity.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 4777**], MD
   on:[**2132-4-26**] 15:17 ------

2132-04-27 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.7
F - [**2132-4-27**] 04:00 AM: Cultured, started on Flagyl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2132-4-25**] 12:00 PM
   Vancomycin - [**2132-4-26**] 06:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-4-26**] 11:41 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-4-27**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 37.9
C (100.2
   HR: 106 (106 - 130) bpm
   BP: 137/73(90) {93/44(55) - 137/96(101)} mmHg
   RR: 25 (19 - 34) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  1,030 mL
                                                                    324 mL
   PO:
                                                                     90 mL
             TF:
   IVF:
                                                                    940 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  1,178 mL
                                                                    634 mL
   Urine:
                                                                  1,178 mL
                                                                    334 mL
   NG:
   Stool:
   300 mL
   Drains:
   Balance:
                                                                   -148 mL
                                                                   -310 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   Ventilator mode: Standby
   FiO2: 80%
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, face mask in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: RLL, Rhonchorous: )
   Bronchial basal sounds
   Abdomen: Mildly distended
   Extremities: No edema
   Skin:  No rashes or skin breakdown
   Neurologic: Attentive
   Labs / Radiology
   157 K/uL
   10.8 g/dL
   103 mg/dL
   1.4 mg/dL
   23 mEq/L
   3.9 mEq/L
   16 mg/dL
   101 mEq/L
   134 mEq/L
   31.9 %
   11.6 K/uL
        [image002.jpg]
                             [**2132-4-25**]  01:35 AM
                             [**2132-4-25**]  04:32 AM
                             [**2132-4-25**]  05:54 AM
                             [**2132-4-25**]  12:34 PM
                             [**2132-4-26**]  03:28 AM
                             [**2132-4-27**]  04:30 AM
   WBC
   7.2
   6.2
   11.6
   Hct
   34.4
   31.0
   31.9
   Plt
   131
   154
   157
   Cr
   1.5
   1.3
   1.4
   TCO2
   33
   34
   34
   Glucose
   103
   95
   103
   Other labs: PT / PTT / INR:35.1/41.8/3.7, ALT / AST:26/40, Alk Phos / T
   Bili:64/1.0, Amylase / Lipase:84/43, Differential-Neuts:83.6 %,
   Lymph:10.6 %, Mono:4.5 %, Eos:1.1 %, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL,
   PO4:2.1 mg/dL
   Fluid analysis / Other labs: PT: 35.1  PTT: 41.8  INR: 3.7
   Imaging: CXR:
   Microbiology: BCx [**Date range (1) 7889**] NGTD
   Assessment and Plan
   41 yo M with Factor V leiden deficiency with hypoxia s/p partial
   nephrectomy.  He had a difficult night with fevers refractory to
   antipyrretics and continued hypoxia.
   # Hypoxia: Patient with continued oxygen requirement and tachypnea to
   high 20s overnight.  He continues to do well on face tent and was
   ambulatory yesterday.  Underlying process remains PNA vs. post-surgical
   inflammatory changes.  Fluid overload less likely contributing to his
   overall picture
   - Continue face tent, titrating to O2 sats >95%
   - Continue Vanc/Zosyn for HAP
   - UOP ~50mL/hr, Lasix as needed
   - Albuterol/Ipratropium nebs
   - Follow CXR with clinical change
   # Fevers & leukocytosis: Patient persistently febrile despite
   antibiotic therapy for supposed HAP.  Flagyl was added overnight to
   cover any other anerobes not successfully covered by Zosyn.  No other
   clear source of infection related.  No evidence of DVT, UTI. Does have
   a wound post-op but no evidence of wound infection.  High concern for
   gut translocation.
   - Continue Vanc/Zosyn for HAP
   - Added Flagyl 500mg PO Q8H
   - Trend WBC
   # Factor V leiden: Coumadin restarted at 2.5mg daily with INR goal of
   2.0-2.2 as per his outpt hematologist. However, the patient is
   currently at 3.7.  Although flagyl can interact with Warfarin, the
   timing is too acute to be related.
   - Hold Warfarin today, reverse with signs of bleeding
   - Hematology follow up
   # Acute on Chronic Renal Failure: Patient
s Cr worsening slightly to
   1.4 with sufficient UOP and good response to lasix. Urology has advised
   us to expect ATN due to intraoperative ureteral clamping.
   - Trend Cr
   - Fluid/lasix to maintain UOP
   # Post Op Pain Mgt: Patient report tenesmus, will discuss bowel
   function with urology.
   - Continue dilaudid PCA
   ICU Care
   Nutrition: Clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-4-25**] 04:47 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2132-04-28 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.4
F - [**2132-4-27**] 08:00 AM
   - ambulating , sat
ing 4L on NC
   - cdiff positive , urology wants on po Vanc
   - INR incr and 1mg vitamin w/ discussion with urology
   - (urology wants pt called out to medical floor)
   S: 4 episodes of diarrhea over last 24h, mild pain ad incision site
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2132-4-25**] 12:00 PM
   Vancomycin - [**2132-4-27**] 08:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2132-4-28**] 07:23 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-4-28**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.4
C (97.6
   HR: 95 (79 - 124) bpm
   BP: 127/82(92) {94/46(53) - 135/98(103)} mmHg
   RR: 21 (14 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,790 mL
                                                                    344 mL
   PO:
                                                                    600 mL
                                                                    170 mL
   TF:
   IVF:
                                                                  1,190 mL
                                                                    174 mL
   Blood products:
   Total out:
                                                                  2,224 mL
                                                                    430 mL
   Urine:
                                                                  1,074 mL
                                                                    430 mL
   NG:
   Stool:
                                                                  1,150 mL
   Drains:
   Balance:
                                                                   -434 mL
                                                                    -86 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, diaphoretic
   Head, Ears, Nose, Throat: Normocephalic, face mask in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Diminished: RLL, Rhonchorous: )
   Bronchial basal sounds
   Abdomen: Mildly distended, not tender
   Extremities: No edema
   Skin:  No rashes or skin breakdown
   Neurologic: Attentive
   Labs / Radiology
   191 K/uL
   10.1 g/dL
   103 mg/dL
   1.3 mg/dL
   28 mEq/L
   3.1 mEq/L
   14 mg/dL
   104 mEq/L
   141 mEq/L
   29.8 %
   8.9 K/uL
        [image002.jpg]
                             [**2132-4-25**]  01:35 AM
                             [**2132-4-25**]  04:32 AM
                             [**2132-4-25**]  05:54 AM
                             [**2132-4-25**]  12:34 PM
                             [**2132-4-26**]  03:28 AM
                             [**2132-4-27**]  04:30 AM
                             [**2132-4-28**]  06:05 AM
   WBC
   7.2
   6.2
   11.6
   8.9
   Hct
   34.4
   31.0
   31.9
   29.8
   Plt
   131
   154
   157
   191
   Cr
   1.5
   1.3
   1.4
   1.3
   TCO2
   33
   34
   34
   Glucose
   103
   95
   103
   103
   Other labs: PT / PTT / INR:41.8/51.5/4.6, ALT / AST:26/40, Alk Phos / T
   Bili:64/1.0, Amylase / Lipase:84/43, Differential-Neuts:82.0 %,
   Lymph:10.2 %, Mono:5.3 %, Eos:2.3 %, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   41 yo M with Factor V leiden deficiency with hypoxia s/p partial
   nephrectomy.  He had a difficult night with fevers refractory to
   antipyrretics and continued hypoxia.
   # Hypoxia: Patient with continued oxygen requirement and tachypnea to
   high 20s overnight.  He continues to do well on face tent and was
   ambulatory yesterday.  Underlying process remains PNA vs. post-surgical
   inflammatory changes.  Fluid overload less likely contributing to his
   overall picture
   - Continue face tent, titrating to O2 sats >95%
   - Continue Vanc/Zosyn for HAP will continue for total of 5d course
   - UOP ~50mL/hr, Lasix as needed
   - Albuterol/Ipratropium nebs
   - Follow CXR with clinical change
   # Cdiff
 on po Vanco, avoiding flagyl from interaction with coumadin,
   diarrhea improving
   # Fevers & leukocytosis: Patient persistently febrile despite
   antibiotic therapy for supposed HAP.  Flagyl was added overnight to
   cover any other anerobes not successfully covered by Zosyn.  No other
   clear source of infection related.  No evidence of DVT, UTI. Does have
   a wound post-op but no evidence of wound infection.  High concern for
   gut translocation.
   - Continue Vanc/Zosyn for HAP
   - Added Flagyl 500mg PO Q8H
   - Trend WBC
   # Factor V leiden: Coumadin restarted at 2.5mg daily with INR goal of
   2.0-2.2 as per his outpt hematologist. However, the patient is
   currently at 3.7.  Although flagyl can interact with Warfarin, the
   timing is too acute to be related.
   - Hold Warfarin today, reverse with signs of bleeding
   - Hematology follow up
   - no further vitamin K today (now down to 2.8)
   # Acute on Chronic Renal Failure: Patient
s Cr worsening slightly to
   1.4 with sufficient UOP and good response to lasix. Urology has advised
   us to expect ATN due to intraoperative ureteral clamping.
   - Trend Cr
   - Fluid/lasix to maintain UOP
   # Post Op Pain Mgt: Patient report tenesmus, will discuss bowel
   function with urology.
   - d/c
d dilaudid PCA
   - now on po oxycodone and morphine breakthrough
   ICU Care
   Nutrition: Clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2132-4-25**] 04:47 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU